US09238647B2
Step C: Methyl 2-tert-butyl-7-(4-fluorophenyl)-1,3-benzoxazole-5-carboxylate
To a mixture of methyl 7-bromo-2-tert-butyl-1,3-benzoxazole-5-carboxylate (218 mg, 0.698 mmol), (4-fluorophenyl)-boronic acid (0.147 g, 1.048 mmol), 3,3′,3″-phosphinidynetris (benzensulfonic acid) trisodium salt (34 mg, 0.052 mmol), palladium(II) acetate (3.92 mg, 0.017 mmol) and diisopropylamine (0.100 mL, 0.698 mmol) were added N,N-dimethylformamide (2.62 mL) and water (0.87 mL). The mixture was heated to 80° C. After 30 min, the mixture was cooled to ambient temperature and ethyl acetate was added. The organic layer was washed with water (3×), brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→70% hexanes/ethyl acetate) gave the title compound (0.209 g). LC-MS [M+1]=328.3.

reactant | methyl 7-bromo-2-tert-butyl-1,3-benzoxazole-5-carboxylate | 0.698 mmol, 218 mg | BrC1=CC(=CC=2N=C(OC21)C(C)(C)C)C(=O)OC | C13H14BrNO3
reactant | (4-fluorophenyl)-boronic acid | 1.048 mmol, 0.147 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | diisopropylamine | 0.698 mmol, 0.100 mL | C(C)(C)NC(C)C | C6H15N
reactant | N,N-dimethylformamide | 2.62 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.017 mmol, 3.92 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 3,3′,3″-phosphinidynetris (benzensulfonic acid) trisodium salt | 0.052 mmol, 34 mg | [Na+].[Na+].[Na+].P(C=1C=C(C=CC1)S(=O)(=O)[O-])(C=1C=C(C=CC1)S(=O)(=O)[O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 0.87 mL | O | H2O
product | Methyl 2-tert-butyl-7-(4-fluorophenyl)-1,3-benzoxazole-5-carboxylate | 0.209 g | C(C)(C)(C)C=1OC2=C(N1)C=C(C=C2C2=CC=C(C=C2)F)C(=O)OC | C19H18FNO3
